US09340538B2
Ethyl 6-(((S)-3-((((S)-2-amino-3-methylbutanoyl)oxy)methyl)morpholino)methyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2,4-dichlorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 1.96 mmol) was reacted with (S)-2-((tert-butoxycarbonyl)amino)-3-methylbutanoic acid (0.83 g, 3.8 mmol) according to the procedure as described in Example 49 to give the title compound as a yellow solid (0.43 g, 36%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2,4-dichlorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.96 mmol, 1 g | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OCC)CN1[C@H](COCC1)CO)C=1SC=CN1 | C22H24Cl2N4O4S
reactant | (S)-2-((tert-butoxycarbonyl)amino)-3-methylbutanoic acid | 3.8 mmol, 0.83 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
product | Ethyl 6-(((S)-3-((((S)-2-amino-3-methylbutanoyl)oxy)methyl)morpholino)methyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.43 g, 36% | N[C@H](C(=O)OC[C@@H]1COCCN1CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC)C(C)C | C27H33Cl2N5O5S
